US09056859B2
A mixture of compound 5-oxo-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate (8.6 g, 30.8 mmol), Zn(CN)2(7.2 g, 61.6 mmol) and Pd(PPh3)4(0.8 g) in anhydrous DMF was stirred at 120° C. under N2 overnight. The reaction was cooled to ambient temperature, and then diluted with DCM. Filtered off solids and the orgainic filtrate was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified with silica gel cloumn chromatography to give 5-oxo-5,6,7,8-tetrahydronaphthalene-1-carbonitrile.

reactant | 5-oxo-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate | 30.8 mmol, 8.6 g | FC(S(=O)(=O)OC1=CC=CC=2C(CCCC12)=O)(F)F | C11H9F3O4S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Zn(CN)2 | 61.6 mmol, 7.2 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-oxo-5,6,7,8-tetrahydronaphthalene-1-carbonitrile | O=C1C=2C=CC=C(C2CCC1)C#N | C11H9NO
